US07022707B2
(R)-2-Ethyl-piperazine-1,4-dicarboxylic acid 4-tert-butyl ester 1-(2-fluoro-5-hydroxy-benzyl) ester
(R)-2-Ethyl-piperazine-1,4-dicarboxylic acid 4-tert-butyl ester 1-(2-fluoro-5-iodo-benzyl) ester (8.9 g, 18 mM) was dissolved in tetrahydrofuran (150 mL), trisopropylborate (6.7 g, 36 mM) was added and the mixture was cooled to −78° C. At this low temperature n-butyllithium (16.9 mL, 1.6N) was added drop by drop with stirring. The mixture was stirred for 45 min at −78° C., for another 45 min at −50° C. and for 15 min at 0° C. Acetic acid (9.5 mL, 50%) was added slowly with stirring (0–5° C.), followed by hydrogen peroxide (2.75 mL, 35%). Stirring continued with cooling for another 45 min and for 1 h at room temperature. The mixture was partitioned between water and diethylether, organic phases were pooled, washed with water, sodium thiosulfate solution (5%), brine and dried with Na2SO4 to yield after evaporation a light yellow oil (8.5 g). This residue was purified by column chromatography (silica gel; n-hexane/ethylacetate 1:1) to yield 3.0 g (43%) of the product as a yellowish oil. MS (ISP): 400.5 (M+NH4)+.

reactant | (R)-2-Ethyl-piperazine-1,4-dicarboxylic acid 4-tert-butyl ester 1-(2-fluoro-5-iodo-benzyl) ester | 18 mM, 8.9 g | FC1=C(COC(=O)N2[C@@H](CN(CC2)C(=O)OC(C)(C)C)CC)C=C(C=C1)I | C19H26FIN2O4
reactant | n-butyllithium | 1.6N, 16.9 mL | C(CCC)[Li]
reactant | Acetic acid | 9.5 mL | C(C)(=O)O | C2H4O2
reactant | hydrogen peroxide | 2.75 mL | OO | H2O2
solvent | tetrahydrofuran | 150 mL | O1CCCC1 | C4H8O
product | (R)-2-Ethyl-piperazine-1,4-dicarboxylic acid 4-tert-butyl ester 1-(2-fluoro-5-hydroxy-benzyl) ester | 3.0 g, 43% | FC1=C(COC(=O)N2[C@@H](CN(CC2)C(=O)OC(C)(C)C)CC)C=C(C=C1)O | C19H27FN2O5
